US05484949
The aqueous solution of sodium acetoacetate which was obtained by hydrolysis of aqueous sodium hydroxide solution of methylacetoacetate according to the method of Example 1 was 32% in concentration. 93.0 g (0.24 moles) of the aqueous solution was placed in a redaction vessel of 200 ml in inside volume, 2.26 g (0.02 moles) of 3,5-dimethylpiperidine was added, and pH was adjusted to 7.0 with concentrated hydrochloric acid. Into the resulting solution were added 20 ml of toluene and 26.0 g (0.20 moles) of 3-tetrahydrothiopyrane carbaldehyde, and a mixture of toluene and water was distilled by aspirator under reduced pressure at an inside temperature of 40° C. During the distillation, the pH was adjusted to 7.0 to 7.5 with concentrated hydrochloric acid and the same amount of toluene as that of toluene distilled was continuously added into the reaction vessel so that the amount of toluene in the vessel was always about 20 ml. After 5 hours, the same post treatment as that used in Examaple 4 was carried out to give the intended product of 4-(3-tetrahydrothiopyranyl)-3-butene-2-one with yield of 88.2%.

reactant | 3,5-dimethylpiperidine | 0.02 moles, 2.26 g | CC1CNCC(C1)C | C7H15N
reactant | hydrochloric acid | Cl | ClH
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-tetrahydrothiopyrane carbaldehyde | 0.20 moles, 26.0 g | S1CC(CCC1)C=O | C6H10OS
reactant | water | O | H2O
product | 4-(3-tetrahydrothiopyranyl)-3-butene-2-one | yield of 88.2% | S1CC(CCC1)C=CC(C)=O | C9H14OS
